**********
* Copyright Intusoft 1994-1997
* All Rights Reserved
**********
**********
*SRC=BPW34;BPW34;Diodes;Photo;PIN, 850nM .62A/W
*SYM=BPW34
.SUBCKT BPW34  4             1        3
*              Input Pwr(W)  Cathode  Anode
D2 6 1 DBPW34
G2 1 6  POLY(2) 1 6  4 0   0 200P 477M
* Dark current as a function of VR (200P*V(1,6)) 
* and Spectral Photosensitivity (A/W) at 670nm (620M*77% = 477M)
V4 6 3 ;  Photodiode Current
.MODEL DBPW34 D (IS=117P RS=.132 N=2.41 BV=32 IBV=.15U
+ CJO=72P VJ=.75 M=.5 TT=504N) ;  32V 50mA diode model made by SpiceMod
.ENDS
**********
*SRC=MRD500;MRD500;Diodes;Photo;PIN, 6.6MA/W
*SYM=BPW34
.SUBCKT MRD500  4             1        3
*               INPUT Pwr(W)  CATHODE  ANODE
D2  6  1  MRD500
G2  1  6  POLY(2)  1  6  4  0  0  3P  6.6M
* G2  1  6  POLY(2)  1  6  4  0  0  IDARK  SENS
* Dark current as a function of VR: IDARK*V(1,6) 
* and Spectral Photosensitivity (A/W): SENS at .8uM
V4  6  3 ;  Photodiode Current
.MODEL MRD500 D (IS=2.55N RS=42M N=1.75 BV=200 IBV=10U
+ CJO=5.3P VJ=.75 M=.333 TT=4.32N)
* Si Photo Diode  08-11-1994
.ENDS
**********
*SRC=MRD510;MRD510;Diodes;Photo;PIN, 1.5MA/W
*SYM=BPW34
.SUBCKT MRD510  4  1  3
*   INPUT Pwr(W) CATHODE  ANODE
D2  6  1  MRD510
G2  1  6  POLY(2)  1  6  4  0  0  3P  1.5M
* G2  1  6  POLY(2)  1  6  4  0  0  IDARK  SENS
* Dark current as a function of VR: IDARK*V(1,6) 
* and Spectral Photosensitivity (A/W): SENS at .8uM
V4  6  3 ;  Photodiode Current
.MODEL MRD510 D (IS=2.55N RS=42M N=1.75 BV=200 IBV=10U
+ CJO=5.3P VJ=.75 M=.333 TT=4.32N)
* Si Photo Diode  08-11-1994
.ENDS
**********
*SRC=MRD721;MRD721;Diodes;Photo;PIN, 5MA/W
*SYM=BPW34
.SUBCKT MRD721  4             1        3
*               INPUT Pwr(W)  CATHODE  ANODE
D2  6  1  MRD721
G2  1  6  POLY(2)  1  6  4  0  0  3P  5M
* G2  1  6  POLY(2)  1  6  4  0  0  IDARK  SENS
* Dark current as a function of VR: IDARK*V(1,6) 
* and Spectral Photosensitivity (A/W): SENS at .8uM
V4  6  3 ;  Photodiode Current
.MODEL MRD721 D (IS=2.55N RS=42M N=1.75 BV=100 IBV=10U
+ CJO=4.97P VJ=.75 M=.333 TT=4.32N)
* Si Photo Diode  08-11-1994
.ENDS
**********
*SRC=MRD821;MRD821;Diodes;Photo;PIN, 50MA/W
*SYM=BPW34
.SUBCKT MRD821  4              1        3
*               INPUT Pwr(W)   CATHODE  ANODE
D2  6  1  MRD821
G2  1  6  POLY(2)  1  6  4  0  0  .4N  50M
* G2  1  6  POLY(2)  1  6  4  0  0  IDARK  SENS
* Dark current as a function of VR: IDARK*V(1,6) 
* and Spectral Photosensitivity (A/W): SENS at 940NM
V4  6  3 ;  Photodiode Current
.MODEL MRD821 D (IS=234P RS=42M N=1.75 BV=35 IBV=10U
+ CJO=175P VJ=.75 M=.333 TT=4.32U)
* Si Photo Diode  08-11-1994
.ENDS
**********
*SRC=BP104;BP104;Diodes;Photo;PIN, 700MA/W
*SYM=BPW34
.SUBCKT BP104   4             1        3
*               INPUT Pwr(W)  CATHODE  ANODE
D2  6  1  BP104
G2  1  6  POLY(2)  1  6  4  0  0  200P  700M
* G2  1  6  POLY(2)  1  6  4  0  0  IDARK  SENS
* Dark current as a function of VR: IDARK*V(1,6) 
* and Spectral Photosensitivity (A/W): SENS at 950 NM
V4  6  3 ;  Photodiode Current
.MODEL BP104 D (IS=2.46N RS=42M N=2.85 BV=20 IBV=10U
+ CJO=48P VJ=.75 M=.333 TT=28.8N)
*  20 Volt   Si Photo Diode  08-23-1994
.ENDS
**********
*SRC=BP104BS;BP104BS;Diodes;Photo;PIN, 590MA/W
*SYM=BPW34
.SUBCKT BP104BS   4             1        3
*               INPUT Pwr(W)  CATHODE  ANODE
D2  6  1  BP104BS
G2  1  6  POLY(2)  1  6  4  0  0  200P  590M
* G2  1  6  POLY(2)  1  6  4  0  0  IDARK  SENS
* Dark current as a function of VR: IDARK*V(1,6) 
* and Spectral Photosensitivity (A/W): SENS at 950NM
V4  6  3 ;  Photodiode Current
.MODEL BP104BS D (IS=2.46N RS=42M N=2.85 BV=32 IBV=10U
+ CJO=72P VJ=.75 M=.333 TT=28.8N)
*  32 Volt  Si Photo Diode  08-23-1994
.ENDS
**********
*SRC=BPW34F;BPW34F;Diodes;Photo;PIN, 590MA/W
*SYM=BPW34
.SUBCKT BPW34F   4             1        3
*               INPUT Pwr(W)  CATHODE  ANODE
D2  6  1  BPW34F
G2  1  6  POLY(2)  1  6  4  0  0  200P  590M
* G2  1  6  POLY(2)  1  6  4  0  0  IDARK  SENS
* Dark current as a function of VR: IDARK*V(1,6) 
* and Spectral Photosensitivity (A/W): SENS at 950NM
V4  6  3 ;  Photodiode Current
.MODEL BPW34F D (IS=2.46N RS=42M N=2.85 BV=32 IBV=10U
+ CJO=72P VJ=.75 M=.333 TT=28.8N)
*  32 Volt  Si Photo Diode  08-23-1994
.ENDS
**********
*SRC=BPW21;BPW21;Diodes;Photo;PIN, 340MA/W
*SYM=BPW34
.SUBCKT BPW21   4             1        3
*               INPUT Pwr(W)  CATHODE  ANODE
D2  6  1  BPW21
G2  1  6  POLY(2)  1  6  4  0  0  400P  340M
* G2  1  6  POLY(2)  1  6  4  0  0  IDARK  SENS
* Dark current as a function of VR: IDARK*V(1,6) 
* and Spectral Photosensitivity (A/W): SENS at 550NM
V4  6  3 ;  Photodiode Current
.MODEL BPW21 D (IS=2.47N RS=42M N=2.63 BV=10 IBV=10U
+ CJO=580P VJ=.75 M=.333 TT=2.16U)
*  10 Volt Si Photo Diode  08-23-1994
.ENDS
**********
*SRC=BPW32;BPW32;Diodes;Photo;PIN, 500MA/W
*SYM=BPW34
.SUBCKT BPW32   4             1        3
*               INPUT Pwr(W)  CATHODE  ANODE
D2  6  1  BPW32
G2  1  6  POLY(2)  1  6  4  0  0  4P  500M
* G2  1  6  POLY(2)  1  6  4  0  0  IDARK  SENS
* Dark current as a function of VR: IDARK*V(1,6) 
* and Spectral Photosensitivity (A/W): SENS at 850NM
V4  6  3 ;  Photodiode Current
.MODEL BPW32 D (IS=1.94N RS=42M N=2.85 BV=7 IBV=10U
+ CJO=100P VJ=.75 M=.333 TT=1.87U)
*  7 Volt  Si Photo Diode  08-23-1994
.ENDS
**********
*SRC=BPW33;BPW33;Diodes;Photo;PIN, 590MA/W
*SYM=BPW34
.SUBCKT BPW33   4             1        3
*               INPUT Pwr(W)  CATHODE  ANODE
D2  6  1  BPW33
G2  1  6  POLY(2)  1  6  4  0  0   15P  590M
* G2  1  6  POLY(2)  1  6  4  0  0  IDARK  SENS
* Dark current as a function of VR: IDARK*V(1,6) 
* and Spectral Photosensitivity (A/W): SENS at 850NM
V4  6  3 ;  Photodiode Current
.MODEL BPW33 D (IS=2.46N RS=42M N=2.85 BV=7 IBV=10U
+ CJO=630P VJ=.75 M=.333 TT=2.16U)
*  7 Volt  Si Photo Diode  08-23-1994
.ENDS
**********
*SRC=BPW34B;BPW34B;Diodes;Photo;PIN, 200MA/W
*SYM=BPW34
.SUBCKT BPW34B  4             1        3
*               INPUT Pwr(W)  CATHODE  ANODE
D2  6  1  BPW34B
G2  1  6  POLY(2)  1  6  4  0  0  200P  200M
* G2  1  6  POLY(2)  1  6  4  0  0  IDARK  SENS
* Dark current as a function of VR: IDARK*V(1,6) 
* and Spectral Photosensitivity (A/W): SENS at 400NM
V4  6  3 ;  Photodiode Current
.MODEL BPW34B D (IS=2.46N RS=42M N=2.85 BV=32 IBV=10U
+ CJO=72P VJ=.75 M=.333 TT=36N)
*  32 Volt  Si Photo Diode  08-23-1994
.ENDS
**********
*SRC=BPW34FA;BPW34FA;Diodes;Photo;PIN, 650MA/W
*SYM=BPW34
.SUBCKT BPW34FA 4             1        3
*               INPUT Pwr(W)  CATHODE  ANODE
D2  6  1  BPW34FA
G2  1  6  POLY(2)  1  6  4  0  0  200P  650M
* G2  1  6  POLY(2)  1  6  4  0  0  IDARK  SENS
* Dark current as a function of VR: IDARK*V(1,6) 
* and Spectral Photosensitivity (A/W): SENS at 880NM
V4  6  3 ;  Photodiode Current
.MODEL BPW34FA D (IS=2.46N RS=42M N=2.85 BV=32 IBV=10U
+ CJO=72P VJ=.75 M=.333 TT=30N)
*  32 VOLT Si Photo Diode  08-23-1994
.ENDS
**********
*SRC=BPX48;BPX48;Diodes;Photo;PIN, 550MA/W
*SYM=BPW34
.SUBCKT BPX48   4             1        3
*               INPUT Pwr(W)  CATHODE  ANODE
D2  6  1  BPX48
G2  1  6  POLY(2)  1  6  4  0  0    1N  550M
* G2  1  6  POLY(2)  1  6  4  0  0  IDARK  SENS
* Dark current as a function of VR: IDARK*V(1,6) 
* and Spectral Photosensitivity (A/W): SENS at 850NM
V4  6  3 ;  Photodiode Current
.MODEL BPX48 D (IS=951P RS=42M N=2.85 BV=10 IBV=10U
+ CJO=25P VJ=.75 M=.333 TT=720N)
*  10 Volt Si Photo Diode  08-23-1994
.ENDS
**********
*SRC=BPX48F;BPX48F;Diodes;Photo;PIN, 650MA/W
*SYM=BPW34
.SUBCKT BPX48F  4             1        3
*               INPUT Pwr(W)  CATHODE  ANODE
D2  6  1  BPX48F
G2  1  6  POLY(2)  1  6  4  0  0    1N  650M
* G2  1  6  POLY(2)  1  6  4  0  0  IDARK  SENS
* Dark current as a function of VR: IDARK*V(1,6) 
* and Spectral Photosensitivity (A/W): SENS at 950NM
V4  6  3 ;  Photodiode Current
.MODEL BPX48F D (IS=951P RS=42M N=2.85 BV=10 IBV=10U
+ CJO=25P VJ=.75 M=.333 TT=720N)
*  10 Volt  Si Photo Diode  08-23-1994
.ENDS
**********
*SRC=BPX60;BPX60;Diodes;Photo;PIN, 200MA/W
*SYM=BPW34
.SUBCKT BPX60   4             1        3
*               INPUT Pwr(W)  CATHODE  ANODE
D2  6  1  BPX60
G2  1  6  POLY(2)  1  6  4  0  0  630P  200M
* G2  1  6  POLY(2)  1  6  4  0  0  IDARK  SENS
* Dark current as a function of VR: IDARK*V(1,6) 
* and Spectral Photosensitivity (A/W): SENS at 400NM
V4  6  3 ;  Photodiode Current
.MODEL BPX60 D (IS=2.46N RS=42M N=2.85 BV=32 IBV=10U
+ CJO=580P VJ=.75 M=.333 TT=4.32U)
*  32 Volt Si Photo Diode  08-23-1994
.ENDS
**********
*SRC=BPX61;BPX61;Diodes;Photo;PIN, 620MA/W
*SYM=BPW34
.SUBCKT BPX61   4             1        3
*               INPUT Pwr(W)  CATHODE  ANODE
D2  6  1  BPX61
G2  1  6  POLY(2)  1  6  4  0  0  200P  620M
* G2  1  6  POLY(2)  1  6  4  0  0  IDARK  SENS
* Dark current as a function of VR: IDARK*V(1,6) 
* and Spectral Photosensitivity (A/W): SENS at 850NM
V4  6  3 ;  Photodiode Current
.MODEL BPX61 D (IS=2.46N RS=42M N=2.85 BV=32 IBV=10U
+ CJO=72P VJ=.75 M=.333 TT=30N)
*  32 Volt Si Photo Diode  08-23-1994
.ENDS
**********
*SRC=BPX63;BPX63;Diodes;Photo;PIN, 500MA/W
*SYM=BPW34
.SUBCKT BPX63   4             1        3
*               INPUT Pwr(W)  CATHODE  ANODE
D2  6  1  BPX63
G2  1  6  POLY(2)  1  6  4  0  0  2.5P  500M
* G2  1  6  POLY(2)  1  6  4  0  0  IDARK  SENS
* Dark current as a function of VR: IDARK*V(1,6) 
* and Spectral Photosensitivity (A/W): SENS at 850NM
V4  6  3 ;  Photodiode Current
.MODEL BPX63 D (IS=2.46N RS=42M N=2.85 BV=7 IBV=10U
+ CJO=100P VJ=.75 M=.333 TT=2.32U)
*  7 Volt Si Photo Diode  08-23-1994
.ENDS
**********
*SRC=BPX65;BPX65;Diodes;Photo;PIN, 550MA/W
*SYM=BPW34
.SUBCKT BPX65   4             1        3
*               INPUT Pwr(W)  CATHODE  ANODE
D2  6  1  BPX65
G2  1  6  POLY(2)  1  6  4  0  0  400P  550M
* G2  1  6  POLY(2)  1  6  4  0  0  IDARK  SENS
* Dark current as a function of VR: IDARK*V(1,6) 
* and Spectral Photosensitivity (A/W): SENS at 850NM
V4  6  3 ;  Photodiode Current
.MODEL BPX65 D (IS=2.46N RS=42M N=2.85 BV=50 IBV=10U
+ CJO=11P VJ=.75 M=.333 TT=17.2N)
*  50 Volt Si Photo Diode  08-23-1994
.ENDS
**********
*SRC=BPX66;BPX66;Diodes;Photo;PIN, 550MA/W
*SYM=BPW34
.SUBCKT BPX66   4             1        3
*               INPUT Pwr(W)  CATHODE  ANODE
D2  6  1  BPX66
G2  1  6  POLY(2)  1  6  4  0  0  150P  550M
* G2  1  6  POLY(2)  1  6  4  0  0  IDARK  SENS
* Dark current as a function of VR: IDARK*V(1,6) 
* and Spectral Photosensitivity (A/W): SENS at 850NM
V4  6  3 ;  Photodiode Current
.MODEL BPX66 D (IS=2.46N RS=42M N=2.85 BV=50 IBV=10U
+ CJO=11P VJ=.75 M=.333 TT=17.2N)
*  50 Volt Si Photo Diode  08-23-1994
.ENDS
**********
*SRC=BPX90;BPX90;Diodes;Photo;PIN, 480MA/W
*SYM=BPW34
.SUBCKT BPX90   4             1        3
*               INPUT Pwr(W)  CATHODE  ANODE
D2  6  1  BPX90
G2  1  6  POLY(2)  1  6  4  0  0  475P  480M
* G2  1  6  POLY(2)  1  6  4  0  0  IDARK  SENS
* Dark current as a function of VR: IDARK*V(1,6) 
* and Spectral Photosensitivity (A/W): SENS at 850NM
V4  6  3 ;  Photodiode Current
.MODEL BPX90 D (IS=2.46N RS=42M N=2.85 BV=32 IBV=10U
+ CJO=430P VJ=.75 M=.333 TT=2.16U)
*  32 Volt  Si Photo Diode  08-23-1994
.ENDS
**********
*SRC=BPX90F;BPX90F;Diodes;Photo;PIN, 480MA/W
*SYM=BPW34
.SUBCKT BPX90F  4             1        3
*               INPUT Pwr(W)  CATHODE  ANODE
D2  6  1  BPX90F
G2  1  6  POLY(2)  1  6  4  0  0  475P  480M
* G2  1  6  POLY(2)  1  6  4  0  0  IDARK  SENS
* Dark current as a function of VR: IDARK*V(1,6) 
* and Spectral Photosensitivity (A/W): SENS at 950NM
V4  6  3 ;  Photodiode Current
.MODEL BPX90F D (IS=2.46N RS=42M N=2.85 BV=32 IBV=10U
+ CJO=430P VJ=.75 M=.333 TT=2.16U)
*  32 Volt  Si Photo Diode  08-23-1994
.ENDS
**********
*SRC=BPX91B;BPX91B;Diodes;Photo;PIN, 200MA/W
*SYM=BPW34
.SUBCKT BPX91B  4             1        3
*               INPUT Pwr(W)  CATHODE  ANODE
D2  6  1  BPX91B
G2  1  6  POLY(2)  1  6  4  0  0  666P  200M
* G2  1  6  POLY(2)  1  6  4  0  0  IDARK  SENS
* Dark current as a function of VR: IDARK*V(1,6) 
* and Spectral Photosensitivity (A/W): SENS at 400NM
V4  6  3 ;  Photodiode Current
.MODEL BPX91B D (IS=2.46N RS=42M N=2.85 BV=32 IBV=10U
+ CJO=580P VJ=.75 M=.333 TT=2.52U)
*  32 Volt  Si Photo Diode  08-23-1994
.ENDS
**********
*SRC=BPX92;BPX92;Diodes;Photo;PIN, 500MA/W
*SYM=BPW34
.SUBCKT BPX92   4             1        3
*               INPUT Pwr(W)  CATHODE  ANODE
D2  6  1  BPX92
G2  1  6  POLY(2)  1  6  4  0  0  110P  500M
* G2  1  6  POLY(2)  1  6  4  0  0  IDARK  SENS
* Dark current as a function of VR: IDARK*V(1,6) 
* and Spectral Photosensitivity (A/W): SENS at 850NM
V4  6  3 ;  Photodiode Current
.MODEL BPX92 D (IS=951P RS=42M N=2.85 BV=32 IBV=10U
+ CJO=90P VJ=.75 M=.333 TT=2.16U)
*  32 Volt  Si Photo Diode  08-23-1994
.ENDS
**********
*SRC=BPY12;BPY12;Diodes;Photo;PIN, 600MA/W
*SYM=BPW34
.SUBCKT BPY12   4             1        3
*               INPUT Pwr(W)  CATHODE  ANODE
D2  6  1  BPY12
G2  1  6  POLY(2)  1  6  4  0  0  550P  600M
* G2  1  6  POLY(2)  1  6  4  0  0  IDARK  SENS
* Dark current as a function of VR: IDARK*V(1,6) 
* and Spectral Photosensitivity (A/W): SENS at 850NM
V4  6  3 ;  Photodiode Current
.MODEL BPY12 D (IS=2.46N RS=42M N=2.85 BV=20 IBV=10U
+ CJO=140P VJ=.75 M=.333 TT=36N)
*  20 Volt Si Photo Diode  08-23-1994
.ENDS
**********
*SRC=BPY12H1;BPY12H1;Diodes;Photo;PIN, 600MA/W
*SYM=BPW34
.SUBCKT BPY12H1 4             1        3
*               INPUT Pwr(W)  CATHODE  ANODE
D2  6  1  BPY12H1
G2  1  6  POLY(2)  1  6  4  0  0  550P  600M
* G2  1  6  POLY(2)  1  6  4  0  0  IDARK  SENS
* Dark current as a function of VR: IDARK*V(1,6) 
* and Spectral Photosensitivity (A/W): SENS at 850NM
V4  6  3 ;  Photodiode Current
.MODEL BPY12H1 D (IS=2.46N RS=42M N=2.85 BV=20 IBV=10U
+ CJO=140P VJ=.75 M=.333 TT=36N)
*  20 Volt  Si Photo Diode  08-23-1994
.ENDS
**********
*SRC=1N6660;DN6660;Diodes;Schottky;45V 40A
.MODEL DN6660 D(IS=13.3U N=1.1706 RS=11M CJO=1000P TT=100PS)
********
*SRC=1N6628;DN6628;Diodes;Rectifier <=5A;600V 2A 
.MODEL DN6628 D(IS=94.5U N=3.59 RS=33M BV=660 IBV=50U CJO=97.1PF TT=43.2NS)
*******
*SRC=1N5806;DN5806;Diodes;Rectifier <=5A;150V 2.5A
.MODEL DN5806 D (IS=23.3N RS=33.7M N=1.67 BV=150 IBV=1U 
+ CJO=66.3P VJ=.75 M=.333 TT=43.2N)
*  150 Volt  2.5 Amp  30M us  Si Diode  07-01-1994
**********
*SRC=1N6638;DN6638;Diodes;Rectifier <=5A;125V 1A
.MODEL DN6638 D (IS=38N RS=1.1 N=2.17 BV=125 IBV=500N 
+ CJO=2.65P VJ=0.75 M=0.333 TT=5.76N
*125V 1A Si Signal Diode
**********
*SRC=OMNI60;OMNI60;Diodes;Schottky;60V 20A
.MODEL OMNI60 D (IS=283N RS=3.38M N=1.05 BV=71.5 IBV=1M 
+ CJO=3.21N VJ=.75 M=.333 TT=14.4N)
*  OMNIREL 60 Volt  20 Amp  
****************
*SRC=SHD1352;SHD1352;Diodes;Schottky;45V 45A Sensitron
.MODEL SHD1352 D (IS=22.4N RS=1.68M N=.775 BV=53 IBV=1M 
+ CJO=5.48N VJ=.75 M=.333 TT=14.4P)
* SENSITRON 45 Volt  45 Amp  10U us  Si Diode  06-02-1993
****************
*SRC=SHD1382;SHD1382;Diodes;Schottky;45V 75A Sensitron
.MODEL SHD1382 D (IS=157U RS=1.51M N=1.36 BV=50 IBV=1M 
+ CJO=2.85N VJ=.75 M=.333 TT=14.4P)
* SENSITRON 45 Volt  75 Amp  Schottky Diode  05-28-1993
*****************
*SRC=SSR8045;SSR8045;Diodes;Schottky;45V 40A SSDI
.MODEL SSR8045 D (IS=26M RS=3.57M N=2 BV=50 IBV=5M 
+ CJO=2.86N TT=14.4P)
* SSDI 45V 40A
*******
.MODEL SRM1UF D (IS=4.9e-5 RS=.77M N=2.45 TT=65.6N BV=303.5 
+ IBV=100U M=.252 CJO=669.7P VJ=.75 XTI=4)
* SSDI 100 Volt  20 Amp Power Diode
********
.MODEL SRM3UF D (IS=9.7E-5 RS=.74M N=2.78 TT=65.6N BV=486 
+ IBV=100U M=.102 CJO=211.1P VJ=.75 XTI=4)
* SSDI 300 Volt  20 Amp Power Diode
********
.MODEL SRM5 D (IS=.0210 N=7.5 RS=.71M TT=1.344E-7 BV=1111 
+ IBV=100U M=.348 CJO=467.4P VJ=.75 XTI=28)
* SSDI 500 Volt  20 Amp Power Diode
*********
.MODEL SRM6UF D (IS=59.6M RS=.63M N=11.5  TT=129.2N BV=1237 
+ IBV=100U M=.410 CJO=709.1P VJ=.75 XTI=58)
* SSDI 600 Volt  20 Amp Power Diode
********
.MODEL SRM5SOFT D (IS=4.95E-7 RS=1.1M N=1.96 TT=11.52U BV=1128 
+ IBV=100U M=.39 CJO=678.3P VJ=.75 XTI=4)
* SSDI 500 Volt  20 Amp Power Diode
********
*SRC=SDR937;SDR937;Diodes;Rectifier >5A;700V 100A 50NS
.MODEL SDR937 D(IS=8.359E-6 N=2.458 RS=1.93M CJO=600P M=0.6 VJ=0.34 
+ IBV=100U BV=674 TT=30N EG=1.15)
* SSDI 700 Volt  100 Amp Power Diode
**********
*SRC=1N3858;TN3858;Diodes;Tunnel;
*SYM=TUNDIODE
.SUBCKT TN3858 1 2
R1 1 3 2.5
I0 3 2 1.2M
D1 3 2 DIODE
J1 4 2 3 NCHANNELJFET
J2 4 3 2 PCHANNELJFET
.MODEL NCHANNELJFET NJF(VTO=-.115V BETA=1.9 CGS=4P)
.MODEL PCHANNELJFET PJF(VTO=-.115V BETA=1.9 CGS=4P)
.MODEL DIODE D (RS=7 N=.6)
.ENDS 
*************
*SRC=GUNN;GUNN;Diodes;Gunn;
*SYM=GUNN
.SUBCKT GUNN 1  2
*
* VP=3V IP=350MA VV=6.5V IV=50MA VF=9V RB=0.5OHM CJ=0.1P
*
* L1 1 100 .2NH ; Optional Lead Inductance. If used, set Node 1 in R1 to 100
R1 1 3 .5
D1 3 2 DIODE
J1 4 2 3 NKANALJFET
J2 4 3 2 PKANALJFET
.MODEL NKANALJFET NJF (VTO=-4V BETA=.07 CGS=.05P)
.MODEL PKANALJFET PJF (VTO=-4V BETA=.07 CGS=.05P)
.MODEL DIODE D (RS=6 N=9)
.ENDS 
**********

